US08871361B2
Synthesis of 5-methoxy-[1,1′-biphenyl]-3-carbonitrile
3-bromo-5-methoxybenzonitrile (8.3 g, 39.1 mmol), dicyclohexyl(2′,6′-dimethoxy-[1,1′-biphenyl]-2-yl)phosphine (S-Phos) (1.286 g, 3.13 mmol), phenylboronic acid (5.84 g, 47.0 mmol), Pd2(dba)3 and 200 mL toluene were charged in a flask and refluxed overnight. The reaction was cooled down and 200 mL of ethyl acetate was added. The crude mixture was run though a silica gel plug, and the product was confirmed by GC. After distillation under vacuum, 7.5 g of a white product was obtained.

reactant | 3-bromo-5-methoxybenzonitrile | 39.1 mmol, 8.3 g | BrC=1C=C(C#N)C=C(C1)OC | C8H6BrNO
reactant | phenylboronic acid | 47.0 mmol, 5.84 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | dicyclohexyl(2′,6′-dimethoxy-[1,1′-biphenyl]-2-yl)phosphine | 3.13 mmol, 1.286 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 5-methoxy-[1,1′-biphenyl]-3-carbonitrile | 7.5 g | COC=1C=C(C=C(C1)C1=CC=CC=C1)C#N | C14H11NO
